US06248740B1
25 g of 4,4′-dimethylbenzophenone was dissolved in ethanol-tetrahydrofuran (180 ml-60 ml); 2.23 g of sodium borohydride was added under ice cooling conditions, followed by stirring at room temperature for 24 hours. The mixture was concentrated under reduced pressure; ice water was added to the residue; the crystal precipitated was collected and dried; the crystal obtained (30.5 g) was dissolved in 800 ml of toluene; 11.9 g of 4-hydroxypiperidine and 24.9 g of p-toluenesulfonic acid monohydrate were added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; 100 ml of ice water and 140 ml of a 1 N aqueous solution of sodium hydroxide were added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with sodium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (90;10:1). The desired fraction was collected to yield 32.8 g of 4-[bis(4-methylphenyl)methoxy]piperidine as an oily substance. 16.4 g of 4-[bis(4-methylphenyl)methoxylpiperidine was dissolved in 100 ml of N,N-dimethylformamide; 14.2 g of N-(3-bromopropyl)phthalimide and 8.15 g of potassium carbonate were added, followed by stirring at room temperature for 16 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (1:2). The desired fraction was collected to yield 21.2 g of N-[3-[4-[bis(4-methylphenyl)methoxy]piperidino]propyl]phthalimide as an oily substance. 20.5 g of this oily substance was dissolved in 150 ml of ethanol; 2.18 ml of hydrazine monohydrate was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; ethanol was added to the residue; the crystal precipitated was collected, dissolved in 40 ml of a 1 N aqueous solution of sodium hydroxide and extracted with ethyl acetate-tetrahydrofuran (2:1); the extract was washed with saline and dried with sodium sulfate. The dry product was concentrated under reduced pressure to yield 10.5 g of the title compound as an oily substance.

reactant | 4,4′-dimethylbenzophenone | 25 g | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
reactant | sodium borohydride | 2.23 g | [BH4-].[Na+]
reactant | 4-hydroxypiperidine | 11.9 g | OC1CCNCC1 | C5H11NO
reactant | p-toluenesulfonic acid monohydrate | 24.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol tetrahydrofuran | 180 ml-60 ml | C(C)O.O1CCCC1
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[bis(4-methylphenyl)methoxy]piperidine | 32.8 g | CC1=CC=C(C=C1)C(OC1CCNCC1)C1=CC=C(C=C1)C | C20H25NO
